US05905071
16d N-[2-(N-tert-Butyloxycarbonyl-L-alanyl-L-alanyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-oleamide.
from N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-oleamide and N-tert-butyloxycarbonyl-L-alanyl-L-alanine. Yield 71%. [α]D =+7.4° (c=0.82, tetrahydrofuran).

reactant | N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-oleamide | NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCC\C=C/CCCCCCCC)=O)CCCCCCCCCCCCCC)N | C40H77N3O6
reactant | N-tert-butyloxycarbonyl-L-alanyl-L-alanine | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)O | C11H20N2O5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[2-(N-tert-Butyloxycarbonyl-L-alanyl-L-alanyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-oleamide | Yield 71% | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCC\C=C/CCCCCCCC)=O)CCCCCCCCCCCCCC)N | C51H95N5O10
